US04038281
25.3 g. of (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridin-5-yl)phenylmethanone (0.1 mol.), 17.1 g. of ethyl iodide (0.11 mol.) and 5 g. of sodium hydroxide are heated together in 150 ml. of dimethylformamide for 12 hours with continuous stirring at 100°. The mixture is filtered hot, evaporated to dryness and the residue is recrystallized from butanol to obtain 5-benzoyl-7-ethyl-2,7-dihydro-2-methyl-4H-pyrazolo[3,4-b]pyridin-4-one, yield 20.3 g. (72%); m.p. 217°-218°.

reactant | (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridin-5-yl)phenylmethanone | 0.1 mol | OC=1C=2C(N=CC1C(=O)C1=CC=CC=C1)=NN(C2)C | C14H11N3O2
reactant | ethyl iodide | 0.11 mol | C(C)I | C2H5I
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-benzoyl-7-ethyl-2,7-dihydro-2-methyl-4H-pyrazolo[3,4-b]pyridin-4-one | C(C1=CC=CC=C1)(=O)C=1C(C=2C(N(C1)CC)=NN(C2)C)=O | C16H15N3O2
